US04642308
The procedure is similar to that described in Example 1, starting with 2-thiophenecarboxylic acid (14 g) N,N'-carbonyldiimidazole (17.8 g) and 2-amino-7-methoxy-1,8-naphthyridine (12.3 g). The product produced by precipitation in water (19.5 g; m.p. 216° C.) is dissolved in boiling ethanol (750 cc). After 3 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with ethanol (2×25 cc) and dried at 40° C. under reduced pressure (0.067 kPa). N-(7-methoxy-1,8-naphthyridin-2-yl)-2-thiophenecarboxamide (15.6 g) is produced, m.p. 220° C.

reactant | 2-thiophenecarboxylic acid | 14 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | 2-amino-7-methoxy-1,8-naphthyridine | 12.3 g | NC1=NC2=NC(=CC=C2C=C1)OC | C9H9N3O
reactant | ethanol | 750 cc | C(C)O | C2H6O
solvent | water | 19.5 g | O | H2O
product | N-(7-methoxy-1,8-naphthyridin-2-yl)-2-thiophenecarboxamide | 15.6 g | COC1=CC=C2C=CC(=NC2=N1)NC(=O)C=1SC=CC1 | C14H11N3O2S
